US08067445B2
Step 2: (2′-Formyl-6-methoxy-5′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 2-bromo-4-trifluoromethyl-benzaldehyde and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester.

reactant | 2-bromo-4-trifluoromethyl-benzaldehyde | BrC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4BrF3O
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
product | (2′-Formyl-6-methoxy-5′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=CC(=C1)C(F)(F)F)C=O)=O | C19H17F3O4
